US06559091B1
A suspension of tetrakis(triphenylphosphine) palladium(0) (66 mg, 0.06 mmol) in toluene (8 mL) was treated with 2,6-dibromoaniline (500 mg, 2.0 mmol), aqueous Na2CO3 (2M, 3.98 mL), and 4-trifluoromethylphenyl boronic acid (831 mg, 4.4 mmol). The resulting suspension was immersed in a 110° C. oil bath, and stirred under Ar for 22 h. The suspension was cooled to rt, and extracted with ether. The organic layer was washed with brine, dried over Na2SO4 and concentrated in vacuo. The residue was purified by flash chromatography (SiO2, 2.5-5.0% EtOAc/Heptane) to afford 4,4″-Bis-trifluoromethyl-[1,1′;3′,1″]terphenyl-2′-ylamine (713 mg, 93%): 1H NMR (CDCl3, chemical shifts in ppm relative to TMS): 6.93 (t, 1H, J=7.3 Hz), 7.14 (d, 2H, J=7.3 Hz), 7.64 (d, 4H, J=8.0 Hz), 7.74 (d, 4H, J=8.0 Hz).

reactant | 2,6-dibromoaniline | 2.0 mmol, 500 mg | BrC1=C(N)C(=CC=C1)Br | C6H5Br2N
reactant | Na2CO3 | 2M, 3.98 mL | C(=O)([O-])[O-].[Na+].[Na+]
reactant | 4-trifluoromethylphenyl boronic acid | 4.4 mmol, 831 mg | FC(C1=CC=C(C=C1)B(O)O)(F)F | C7H6BF3O2
solvent | toluene | 8 mL | C1(=CC=CC=C1)C | C7H8
catalyst | tetrakis(triphenylphosphine) palladium(0) | 0.06 mmol, 66 mg | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | 4,4″-Bis-trifluoromethyl-[1,1′;3′,1″]terphenyl-2′-ylamine | 713 mg, 93% | FC(C1=CC=C(C=C1)C1=C(C(=CC=C1)C1=CC=C(C=C1)C(F)(F)F)N)(F)F | C20H13F6N
